US07932282B2
To 1,3-dimethyl-2-oxo-4-imidazolidinecarboxylic acid (6.000 ml, 0.600 mmol) (0.1M solution in dichloromethane) was added the N-ethylmorpholine (0.380 ml, 3.00 mmol), 1-hydroxybenzotriazole hydrate (110 mg, 0.720 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (138 mg, 0.720 mmol), and the reaction stirred at RT under argon for 10 minutes. [(3-Chloro-2-methylphenyl)methyl]amine (103 mg, 0.660 mmol) was then added and the reaction left to stir at RT under argon overnight. The reaction mixture was diluted with dichloromethane (15 ml) and then the solution was washed with saturated sodium hydrogen carbonate solution (20 ml), water (20 ml), 3N citric acid solution (20 ml), brine (20 ml) and then dried over magnesium sulphate. The solvent was evaporated in vacuo. The residue was purified by mass-directed automated HPLC. Fractions containing product were combined and solvent evaporated in vacuo, co-evaporated with diethyl ether to give the N-[(3-chloro-2-methylphenyl)methyl]-1,3-dimethyl-2-oxo-4-imidazolidinecarboxamide as a white solid (50 mg, 26.8% yield). LC/MS [M+H]+=296, retention time=1.96 minutes

reactant | 1,3-dimethyl-2-oxo-4-imidazolidinecarboxylic acid | 0.600 mmol, 0.1M, 6.000 ml | CN1C(N(C(C1)C(=O)O)C)=O | C6H10N2O3
reactant | N-ethylmorpholine | 3.00 mmol, 0.380 ml | C(C)N1CCOCC1 | C6H13NO
reactant | 1-hydroxybenzotriazole hydrate | 0.720 mmol, 110 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.720 mmol, 138 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | [(3-Chloro-2-methylphenyl)methyl]amine | 0.660 mmol, 103 mg | ClC=1C(=C(C=CC1)CN)C | C8H10ClN
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N-[(3-chloro-2-methylphenyl)methyl]-1,3-dimethyl-2-oxo-4-imidazolidinecarboxamide | 50 mg, 26.8% yield | ClC=1C(=C(C=CC1)CNC(=O)C1N(C(N(C1)C)=O)C)C | C14H18ClN3O2
